US08445684B2
To a solution of 1-(tert-butoxycarbonyl)-4-[2-(4-methylbenzyloxy)ethyl]piperidine (470 mg, 1.41 mmol) in MeOH (0.5 mL) was added 2N anhydrous HCl/ether (2 mL, 4.0 mmol). The reaction mixture was stirred overnight. After evaporation, the residue was dissolved in deionized water. EtOAc was used to wash the aqueous layer before the pH was altered to approx. 9-10. The aqueous layer was extracted three times with CH2Cl2 and dried over Na2SO4. After evaporation, 4-[2-(4-methylbenzyloxy)ethyl]piperidine (269 mg, 82%) was obtained as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 7.20 (d, 2H, J=7.6 Hz), 7.13 (d, 2H, J=8.0 Hz), 4.44 (s, 2H), 3.47 (t, 2H, 6.0 Hz), 3.02 (d, 2H, J=12.0 Hz), 2.53 (m, 3H), 2.33 (s, 3H), 1.64 (d, 2H, J=12.4 Hz), 1.51 (m, 3H), 1.06 (m, 2H).

reactant | 1-(tert-butoxycarbonyl)-4-[2-(4-methylbenzyloxy)ethyl]piperidine | 1.41 mmol, 470 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC1=CC=C(C=C1)C | C20H31NO3
reactant | HCl ether | 4.0 mmol, 2N, 2 mL | Cl.CCOCC
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-[2-(4-methylbenzyloxy)ethyl]piperidine | 269 mg, 82% | CC1=CC=C(COCCC2CCNCC2)C=C1 | C15H23NO
